US07375134B2
A mixture of methyl N-((benzyloxy)carbonyl)-3-iodo-L-alaninate (10 g, 27.5 mmol), from Step 1, zinc-copper couple (3.3 g) in benzene (110 mL) and N,N-dimethylacetamide (7.4 mL) was sonicated in an ultra-sound bath for 2 hours. Over this period, 3 portions of 1,2-dibromoethane (0.24 mL) and chlorotrimethylsilane (0.17 mL) were added. To this mixture was then added bis(triphenylphosphine)palladium chloride (0.958 g, 1.4 mmol) and acetyl chloride (2.5 mL, 35.2 mmol) and the mixture was heated at 70° C. for 2 hours. After cooling to room temperature, the mixture was filtered on celite with ethyl acetate, the organic layer was then washed with a saturated solution of ammonium chloride, brine (2×), dried over magnesium sulfate, filtered and the solvent evaporated under vacuum. The residue was purified by silica gel chromatography using ethyl acetate and hexanes to afford methyl N-((benzyloxy)carbonyl)-4-oxo-L-norvalinate.

reactant | methyl N-((benzyloxy)carbonyl)-3-iodo-L-alaninate | 27.5 mmol, 10 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CI)C(=O)OC | C12H14INO4
reactant | 1,2-dibromoethane | 0.24 mL | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 0.17 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | acetyl chloride | 35.2 mmol, 2.5 mL | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 110 mL | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylacetamide | 7.4 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc-copper couple | 3.3 g | [Cu].[Zn]
catalyst | bis(triphenylphosphine)palladium chloride | 1.4 mmol, 0.958 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl N-((benzyloxy)carbonyl)-4-oxo-L-norvalinate | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)=O)C(=O)OC | C14H17NO5
